US06593333B1
6-Acetoxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline dihydrochloride
A mixture of N-(3-amino-4-methylphenyl)-2-morpholinopyridine-4-carboxamide (178 mg), 6-acetoxy-4-chloro-7-methoxyquinazoline hydrochloride (150 mg) and isopropanol (5 ml) was stirred and heated to 85° C. for 3 hours. The reaction mixture was allowed to cool to ambient temperature and the solid was isolated and washed in turn with isopropanol (5 ml) and isohexane (2×5 ml). There was thus obtained the title compound (249 mg, 80%); NMR: 2.17 (s, 3H), 2.38 (s, 3H), 3.56 (m, 4H), 3.72 (m, 4H), 4.0 (s, 3H), 7.16 (m, 1H), 7.37 (m, 2H), 7.52 (s, 1H), 7.68 (m, 1H), 7.87 (m, 1H), 8.24 (m, 1H), 8.67 (s, 1H), 8.8 (s, 1H), 10.6 (s, 1H), 11.50 (s, 1H); m/s: M+H+ 529.

reactant | N-(3-amino-4-methylphenyl)-2-morpholinopyridine-4-carboxamide | 178 mg | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
reactant | 6-acetoxy-4-chloro-7-methoxyquinazoline hydrochloride | 150 mg | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)Cl
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 6-Acetoxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline dihydrochloride | 249 mg, 80% | Cl.Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | InChI=1S/C28H28N6O5.2ClH/c1-17-4-5-20(32-28(36)19-6-7-29-26(12-19)34-8-10-38-11-9-34)13-22(17)33-27-21-14-25(39-18(2)35)24(37-3)15-23(21)30-16-31-27;;/h4-7,12-16H,8-11H2,1-3H3,(H,32,36)(H,30,31,33);2*1H
